74182 multiplier circuit implementation

.INCLUDE '32nm_HP.pm'
.include inv.sub
.include and_2.sub
.include and_3.sub
.include and_4.sub
.include nand_2.sub
.include nand_3.sub
.include nand_4.sub
.include nor_2.sub
.include nor_3.sub
.include nor_4.sub
.include or_4.sub

.subckt multiplier P0 P1 P2 P3 G0 G1 G2 G3 Cn P_out G_out Cn_Z_out Cn_Y_out Cn_X_out n2_out vdd gnd

x0 Cn Cn_out vdd gnd inv
x1 P0 P1 P2 P3 P_out vdd gnd or_4

x2 G0 G1 G2 G3 n2_out vdd gnd and_4
x3 P1 G3 G2 G1 n3_out vdd gnd and_4
x4 P2 G3 G2 n4_out vdd gnd and_3
x5 P3 G3 n5_out vdd gnd and_2

x6 G2 G1 G0 Cn_out n6_out vdd gnd and_4
x7 P0 G2 G1 G0 n7_out vdd gnd and_4
x8 P1 G2 G1 n8_out vdd gnd and_3
x9 P2 G2 n9_out vdd gnd and_2

x10 G1 G0 Cn_out n10_out vdd gnd and_3
x11 P0 G1 G0 n11_out vdd gnd and_3
x12 P1 G1 n12_out vdd gnd and_2

x13 G0 Cn_out n13_out vdd gnd and_2
x14 P0 G0 n14_out vdd gnd and_2

x15 n2_out n3_out n4_out n5_out G_out vdd gnd or_4
x16 n6_out n7_out n8_out n9_out Cn_Z_out vdd gnd nor_4
x17 n10_out n11_out n12_out Cn_Y_out vdd gnd nor_3
x18 n13_out n14_out Cn_X_out vdd gnd nor_2


.ends multiplier




.PARAM supply = 1.1
.global gnd
.temp 25

Vdd node_vdd gnd 'SUPPLY'

*V_P0 P0 gnd PULSE(0 1.1 0ns 100ps 100ps 20ns 40ns)
*V_P1 P1 gnd PULSE(0 1.1 0ns 100ps 100ps 50ns 70ns)
*V_P2 P2 gnd PULSE(0 1.1 0ns 100ps 100ps 50ns 70ns)
*V_P3 P3 gnd PULSE(0 1.1 0ns 100ps 100ps 50ns 70ns)
*V_G0 G0 gnd PULSE(0 1.1 0ns 100ps 100ps 50ns 70ns)
*V_G1 G1 gnd PULSE(0 1.1 0ns 100ps 100ps 50ns 70ns)
*V_G2 G2 gnd PULSE(0 1.1 0ns 100ps 100ps 50ns 70ns)
*V_G3 G3 gnd PULSE(0 1.1 0ns 100ps 100ps 50ns 70ns)
*V_Cn Cn gnd dc 0

V_P0 P0 gnd dc 0
V_P1 P1 gnd dc 0
V_P2 P2 gnd dc 0
V_P3 P3 gnd dc 0
V_G0 G0 gnd dc 0
V_G1 G1 gnd dc 0
V_G2 G2 gnd dc 0
V_G3 G3 gnd dc 0
V_Cn Cn gnd dc 0

x1 P0 P1 P2 P3 G0 G1 G2 G3 Cn P_out G_out Cn_Z_out Cn_Y_out Cn_X_out n2_out node_vdd gnd multiplier


.tran 1n 400n
.control
run
set color0 = rgb:f/f/e
set color1 = black

*plot v(P0) v(P1)+1.5 v(P2)+3 v(P3)+4.5 v(G0)+6 v(G1)+7.5 v(G2)+9 v(G3)+10.5 v(Cn)+12 v(P_out)+14 v(G_out)+15.5 v(Cn_Z_out)+17 v(Cn_Y_out)+18.5 v(Cn_X_out)+20
*plot v(P0) v(P1)+1.5 v(P2)+3 v(P3)+4.5 v(G0)+6 v(G1)+7.5 v(G2)+9 v(G3)+10.5 v(Cn)+12 v(P_out)+13.5 v(G_out)+15 v(Cn_Z_out)+16.5 v(Cn_Y_out)+18 v(Cn_X_out)+19.5

*plot v(P_out) v(G_out)+2 v(Cn_Z_out)+4 v(Cn_Y_out)+6 v(Cn_X_out)+8

plot v(n2_out)

.end
.endc

